US06809200B2
1-(1-Benzhydryl-3-azetidinyl)-5-ethyl-4-nitro-1H-pyrazole-3-carboxamide
5-Ethyl-4-nitro-1H-pyrazole-3-carboxamide (WO 98/49166) (25.0 g, 136 mmol), sodium carbonate (57.6 g, 543 mmol), sodium iodide (40.7 g, 272 mmol) and 1-benzhydryl-3-azetidinyl methanesulfonate (86.2 g, 272 mmol) were suspended in tetrahydrofuran (338 mL) and water (38 mL) and heated under reflux for 5 days. The reaction mixture was then concentrated in vacuo and taken up in ethyl acetate (500 mL) and water (300 mL). The resulting precipitate was filtered, washed with ethyl acetate and water to yield the title compound as a white solid (17 g, 41.9 mmol, 31%): mp 257-260° C.; 1H NMR (400 MHz, DMSO-d6): δ=1.09 (t, 3H, J=7.6 Hz), 2.95 (q, 2H, J=7.3 Hz), 3.43 (t, 2H, J=7.6 Hz), 3.61 (t 2H, J=7.6 Hz), 4.59 (s, 1H), 5.23 (quintet, 1H, J=7.3 Hz), 7.15-7.20 (m, 2H), 7.24-7.31 (m, 4H), 7.43-7.48 (m, 4H), 7.70 (br s, 1H), 7.95 (br s, 1H); LRMS (m/z) (TSP+) 406.2 (MH+).

reactant | 5-Ethyl-4-nitro-1H-pyrazole-3-carboxamide | 136 mmol, 25.0 g | C(C)C1=C(C(=NN1)C(=O)N)[N+](=O)[O-] | C6H8N4O3
reactant | sodium carbonate | 543 mmol, 57.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 272 mmol, 40.7 g | [I-].[Na+]
reactant | 1-benzhydryl-3-azetidinyl methanesulfonate | 272 mmol, 86.2 g | CS(=O)(=O)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H19NO3S
solvent | tetrahydrofuran | 338 mL | O1CCCC1 | C4H8O
solvent | water | 38 mL | O | H2O
product | 1-(1-Benzhydryl-3-azetidinyl)-5-ethyl-4-nitro-1H-pyrazole-3-carboxamide | 41.9 mmol, 17 g, 31% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N1N=C(C(=C1CC)[N+](=O)[O-])C(=O)N | C22H23N5O3
